US05432194
Preparation of 4-{3-[4-(((4-methylpiperazinyl)carbonyl)-N-methylamino)phenylthio]phenyl}-4-methoxytetrahydropyran hydrochloride salt
A methylene chloride (3 mL) solution of 4-{3-[4-(((4-methylpiperazinyl)carbonyl)-N-methylamino)phenylthio]phenyl}-4-methoxytetrahydropyran (132 mg, 0.29 mmol) was treated with a 4M solution of HCl in dioxane (7.3 mL, 0.29 mmol) and stirred at ambient temperature for 1 h. Addition of ether (20 mL) precipitated a colorless solid which was collected by filtration. The filter cake was washed thoroughly with ether and dried under vacuum to provide the title compound as a colorless solid. mp 154°-155° C.: 1H NMR (300 MHz, DMSO-D6) δ7.14-7.42 (5H, m), 3.63-3.77 (4H; m), 2.70-3.40 (8H; m), 3.16 (3H, s), 2.86 (3H, s), 2.72 (3H; br s), 1.80-1.93 (4H, m). MS m/e (M-HCl+H)+ =456; Analysis calc'd for C25H33N3O3S(2HCl): C, 56.81; H, 6.67; N, 7.95. Found: C, 56.91; H, 6.67; N, 7.56.

reactant | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
reactant | 4-{3-[4-(((4-methylpiperazinyl)carbonyl)-N-methylamino)phenylthio]phenyl}-4-methoxytetrahydropyran | 0.29 mmol, 132 mg | CN1CCN(CC1)C(=O)N(C)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)OC | C25H33N3O3S
reactant | HCl | Cl | ClH
reactant | dioxane | 0.29 mmol, 7.3 mL | O1CCOCC1 | C4H8O2
solvent | ether | 20 mL | CCOCC | C4H10O
product | 4-{3-[4-(((4-methylpiperazinyl)carbonyl)-N-methylamino)phenylthio]phenyl}-4-methoxytetrahydropyran hydrochloride salt | Cl.CN1CCN(CC1)C(=O)N(C)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)OC | InChI=1S/C25H33N3O3S.ClH/c1-26-13-15-28(16-14-26)24(29)27(2)21-7-9-22(10-8-21)32-23-6-4-5-20(19-23)25(30-3)11-17-31-18-12-25;/h4-10,19H,11-18H2,1-3H3;1H
